US09227978B2
(4,5-Dichloro-2-methoxyphenyl)methanol
To a mixture of LiAlH4 (2.42 g, 64 mmol) in THF (40 mL) at −40° C. under argon, a solution of methyl 4,5-dichloro-2-methoxybenzoate (6 g, 26 mmol) in THF (50 mL) was added dropwise. The reaction mixture was stirred at −5° C. to 5° C. for 1 h. The mixture was cooled to −20° C. and then water (2 mL) and NaOH (15%) aqueous were added. The resulting mixture was stirred for 15 min. The solid was filtered, and the cake rinsed with ethyl acetate. The combined filtrate was dried over Na2SO4 and concentrated in vacuo to afford the crude product (4.6 g).

reactant | LiAlH4 | 64 mmol, 2.42 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | methyl 4,5-dichloro-2-methoxybenzoate | 26 mmol, 6 g | ClC1=CC(=C(C(=O)OC)C=C1Cl)OC | C9H8Cl2O3
reactant | water | 2 mL | O | H2O
reactant | NaOH | [OH-].[Na+]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (4,5-Dichloro-2-methoxyphenyl)methanol | 4.6 g | ClC1=CC(=C(C=C1Cl)CO)OC | C8H8Cl2O2
